US09029545B2
4-Amino-3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridine-5-carboxylic acid
A mixture of ethyl 4-amino-3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridine-5-carboxylate (120 mg, 0.367 mmol) (Description 32) in DMSO (3 mL) and 2M NaOH (0.916 mL, 1.833 mmol) was heated at 120° C. for 1 h. After cooling to RT, the mixture was diluted with water (20 mL), acidified with acetic acid to pH 6. The mixture was extracted with 10% MeOH in DCM (5×30 mL). The combined organics were dried and concentrated. The residue was passed through a C18 solid phase extractor cartridge, eluted with water (4×30 mL) followed by MeOH (4×30 mL). The combined organics were concentrated and dried at 55° C. in a vacuum oven, to afford the title compound (98 mg). LCMS (A) m/z: 300 [M+1]+, Rt 0.58 min (acidic).

reactant | ethyl 4-amino-3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridine-5-carboxylate | 0.367 mmol, 120 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C)C=2C=NC=CC2 | C17H17N3O2S
reactant | NaOH | 1.833 mmol, 2M, 0.916 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | 4-Amino-3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridine-5-carboxylic acid | 98 mg | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C)C=2C=NC=CC2 | C15H13N3O2S
